US20010046956A1
7-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid (1-phenyl-propyl)-amide;
(R)-7-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid (1-phenyl-ethyl)-amide, ethanesulfonate;

reactant | (R)-7-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid (1-phenyl-ethyl)-amide | C1(=CC=CC=C1)[C@@H](C)NC(=O)C=1C=NC2=CC(=CC=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C32H24F3N3O2
reactant | ethanesulfonate | C(C)S(=O)(=O)[O-]
product | 7-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid (1-phenyl-propyl)-amide | C1(=CC=CC=C1)C(CC)NC(=O)C=1C=NC2=CC(=CC=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C33H26F3N3O2
